US08232287B2
4-[4-({6-[5-(methylsulfonyl)indolin-1-yl]pyrimidin-4-yl}oxy)piperidin-1-yl]-4-oxobutan-2-ol (exemplary compound No: 97)
3-hydroxybutanoic acid (61 μL, 0.66 mmol), diisopropylethylamine (102 μL, 0.571 mmol), and 4-(dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (235 mg, 0.849 mmol) were added to an ethanol (3 mL) suspension of the 5-(methylsulfonyl)-1-[6-(piperidin-4-yloxy)pyrimidin-4-yl]indoline hydrochloride (224 mg, 0.545 mmol) produced in Reference Example 27, and the mixture was stirred at room temperature for 3 days. To the reaction solution, water was added, followed by extraction with dichloromethane three times. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by thin-layer silica gel chromatography (dichloromethane:methanol=1:1, V/V). The obtained crude product was washed with diisopropyl ether to obtain the title compound as grayish white foam (174 mg, yield: 69%).

reactant | 3-hydroxybutanoic acid | 0.66 mmol, 61 μL | OC(CC(=O)O)C | C4H8O3
reactant | diisopropylethylamine | 0.571 mmol, 102 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 0.849 mmol, 235 mg | [Cl-].COC1=NC(=NC(=N1)[N+]1(CCOCC1)C)OC
reactant | 5-(methylsulfonyl)-1-[6-(piperidin-4-yloxy)pyrimidin-4-yl]indoline hydrochloride | 0.545 mmol, 224 mg | Cl.CS(=O)(=O)C=1C=C2CCN(C2=CC1)C1=NC=NC(=C1)OC1CCNCC1
solvent | water | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-[4-({6-[5-(methylsulfonyl)indolin-1-yl]pyrimidin-4-yl}oxy)piperidin-1-yl]-4-oxobutan-2-ol | 174 mg, yield: 69% | CS(=O)(=O)C=1C=C2CCN(C2=CC1)C1=CC(=NC=N1)OC1CCN(CC1)C(CC(C)O)=O | C22H28N4O5S
